US07199243B2
3-bromophenol (49.42 g, 285.66 mmol) and diethyl-(3-pyridyl)borane (40.00 g, 272.05 mmol) were dissolved in 945 mL of a 4:2:1 mixture of THF/H2O/ethanol in a 2 L round bottom flask equipped with a magnetic stirrer. Sodium carbonate (57.7 g, 544.11 mmol) and tetrakis(triphenylphosphine)palladium(0) (3.14 g, 2.72 mmol) was added and the mixture was heated at reflux for 2 h then cooled to ambient temperature and stirred an additional 18 h. The mixture was diluted with 400 mL water and extracted with ethyl acetate (3×500 mL). The organic phases were combined and dried over anhydrous sodium sulfate, filtered and concentrated to a volume of 1 L. The organic solution was diluted with 500 mL water and made acidic with 12N HCl. The layers were separated and the organic phase extracted with water (2×300 mL). The acidic extractions were combined and made basic with 5N aqueous sodium hydroxide. This basic layer was extracted with diethyl ether (3×500 mL) and the extracts were combined, washed with 500 mL brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to yield 40.91 g (88%) of 3-(3-hydroxyphenyl)pyridine as a pale yellow oil which crystallized on standing.

reactant | 3-bromophenol | 285.66 mmol, 49.42 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | diethyl-(3-pyridyl)borane | 272.05 mmol, 40.00 g | C(C)B(C=1C=NC=CC1)CC | C9H14BN
reactant | Sodium carbonate | 544.11 mmol, 57.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF H2O ethanol | C1CCOC1.O.C(C)O
solvent | water | 400 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2.72 mmol, 3.14 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3-hydroxyphenyl)pyridine | 40.91 g, 88% | OC=1C=C(C=CC1)C=1C=NC=CC1 | C11H9NO
